US04031221
By following the manipulative procedure described in Example 2(d), 5.6 g of lithium aluminum hydride in 165 ml. of tetrahydrofuran and 15.2 g of 1-(5-benzyloxyindol-3-ylglyoxyloyl)-4-(p-fluorophenoxy)piperidine in 160 ml. of tetrahydrofuran are reacted to produce a white powder. The powder is recrystallized twice from an ethanol and water mixture and once from 95% ethanol (charcoal treatment) to give colorless needles of 5-benzyloxy-3-{2-[4-(p-fluorophenoxy)piperidyl]ethyl}indole, m.p. 134.5°-136.5° C.

reactant | lithium aluminum hydride | 5.6 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 1-(5-benzyloxyindol-3-ylglyoxyloyl)-4-(p-fluorophenoxy)piperidine | 15.2 g | C(C1=CC=CC=C1)OC=1C=C2C(=CNC2=CC1)C(C(=O)N1CCC(CC1)OC1=CC=C(C=C1)F)=O | C28H25FN2O4
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 5-benzyloxy-3-{2-[4-(p-fluorophenoxy)piperidyl]ethyl}indole | C(C1=CC=CC=C1)OC=1C=C2C(=CNC2=CC1)CCN1CCC(CC1)OC1=CC=C(C=C1)F | C28H29FN2O2
